US08541588B2
Tert-butyl 3-hydrazinoazetidine-1-carboxylate
Tert-butyl 3-iodoazetidine-1-carboxylate (142 g, 0.5016 mol) and hydrazine hydrate (245.21 mL, 5.02 mol) were mixed in ethanol (284 mL) and the reaction was heated to 85° C. for 48 hours under nitrogen. The reaction was cooled and the ethanol was removed in vacuo. The residue was partitioned between water (200 mL) and dichloromethane (300 mL), the water layer was re-extracted with dichloromethane (2×200 mL), the combined organics were dried over anhydrous magnesium sulphate, filtered and concentrated in vacuo to give the title compound as a colourless oil, (88.37 g). This compound was used immediately in the next step.

reactant | Tert-butyl 3-iodoazetidine-1-carboxylate | 0.5016 mol, 142 g | IC1CN(C1)C(=O)OC(C)(C)C | C8H14INO2
reactant | hydrazine hydrate | 5.02 mol, 245.21 mL | O.NN
solvent | ethanol | 284 mL | C(C)O | C2H6O
product | Tert-butyl 3-hydrazinoazetidine-1-carboxylate | 88.37 g | N(N)C1CN(C1)C(=O)OC(C)(C)C | C8H17N3O2
